US07612114B2
4-{2-{[5-Methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]methylamino}ethyl}phenol
Synthesized from [2-(4-benzyloxyphenyl)ethyl][5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine according to an analogous synthetic method to Preparation Example 18, [2-(4-benzyloxyphenyl)ethyl][5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]methylamine (367 mg) was used according to an analogous synthetic method to Example 22 to provide the title compound (320 mg).

reactant | [2-(4-benzyloxyphenyl)ethyl][5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCNC1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C33H35NO3
reactant | [2-(4-benzyloxyphenyl)ethyl][5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]methylamine | 367 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCNCC1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C34H37NO3
product | 4-{2-{[5-Methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]methylamino}ethyl}phenol | 320 mg | COC=1C=CC(=C(C1)CNCCC1=CC=C(C=C1)O)C1CC2=CC=C(C=C2CC1)OC | C27H31NO3
